US09428509B2
5-(2-Chloro-4-(tetrahydro-2H-pyran-4-yloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylpicolinamide
2-Chloro-5-iodo-4-(tetrahydro-2H-pyran-4-yloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamide (1 equiv), 1′-bis(diphenyl-phosphino)-ferrocene]dichloropalladium(II) complex with dichloromethane (0.1 equiv), sodium carbonate (3 equiv) were suspended in a 3:1 mixture of 1,4-dioxane and water (0.09 M) were combined in a sealed reaction vessel. The resulting solution was flushed with nitrogen and stirred at 85° C. for 2 h. After cooling to room temperature the reaction mixture was loaded directly onto a silica-gel column and purified using flash chromatography (0-55% ethyl acetate in hexane). Fractions were combined, concentrated and the residue dried under high vacuum to give the title compound (61% yield) as a brown semi solid. MS (ESI) m/z 519.1 [M+1]+.

reactant | 2-Chloro-5-iodo-4-(tetrahydro-2H-pyran-4-yloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCOCC2 | C17H25ClIN3O3Si
reactant | N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamide | 1 equiv | CNC(C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C13H19BN2O3
reactant | dichloromethane | 0.1 equiv | ClCCl | CH2Cl2
reactant | sodium carbonate | 3 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 0.09 M | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 5-(2-Chloro-4-(tetrahydro-2H-pyran-4-yloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylpicolinamide | 61% yield | ClC=1N=C(C2=C(N1)N(C=C2C=2C=CC(=NC2)C(=O)NC)COCC[Si](C)(C)C)OC2CCOCC2 | C24H32ClN5O4Si
